.param P_Drive = 0.1
.param P_Tone = 1
.param P_Level = 0.5
.include "/workspace/SPICEyPedals/tools/../PartModels/modelos_subckt/Diode_BJT_FET/GenSemi/GSdevices.lb5"
* generated from Ibanez Tube Screamer TS-9.schx
VCC VCC 0 DC 9
VIN IN 0 SIN(0 50m 500)
CC1 IN N4 1u
RR1 VB N4 10k
CCc N5 N6 51p
CCz 0 N23 47n
RR2 N5 N23 4.7k
RR3 N5 N22 51k
RDrive N6 N22 {500k * P_Drive}
RR5 N6 N10 1k
CC4 N11 0 220n
RToneA N25 N26 {10k * (1-P_Tone)}
RToneB N26 N27 {10k * P_Tone}
CC5 N13 N27 220n
RR7 N13 0 220
RR8 N15 N26 1k
CC6 N15 N21 1u
RLevelA 0 N20 {100k * (1-P_Level)}
RLevelB N20 N21 {100k * P_Level}
RR11 N17 VB 10k
RS1 0 N20 8
DD1 N8 N9 d1n4148ws
DD2 N5 N6 d1n4148ws
.tran 2u 100m 80m
.op
.control
  run
  quit
.endc
.end
